US07645776B2
6-Cyano-nicotinic acid allyl ester
4 mmol of 6-Cyanonicotinic acid were dissolved in THF. 1.5 eq. of Cs2CO3 were added he reaction stirred for 10 min. 1.5 eq allylbromide and a catalytic amount of KI were added he reaction heated to 100° C. for 4 h. The product was isolated via extraction from cetate/water.

reactant | 6-Cyanonicotinic acid | 4 mmol | C(#N)C1=NC=C(C(=O)O)C=C1 | C7H4N2O2
reactant | Cs2CO3 | 1.5 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | allylbromide | 1.5 eq | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 6-Cyano-nicotinic acid allyl ester | C(C=C)OC(C1=CN=C(C=C1)C#N)=O | C10H8N2O2
